US06034239
5-bromomethyl-2,3-dihydrobenzofuran
To a solution of (2,3-dihydrobenzofuran-5-yl)methanol (29.0 g, 0.193 mol) in tetrahydrofuran (150 mL) was added phosphorous tribromide (34.8 g, 0.129 mol) under ice/salt-cooling. The mixture was stirred for 20 minutes and then poured into water. The mixture was extracted with ethyl acetate. The extract was washed with brine, dried over anhydrous magnesium sulfate and evaporated to afford the title compound (yield 27.6 g, 91%).

reactant | (2,3-dihydrobenzofuran-5-yl)methanol | 0.193 mol, 29.0 g | O1CCC2=C1C=CC(=C2)CO | C9H10O2
reactant | phosphorous tribromide | 0.129 mol, 34.8 g | P(Br)(Br)Br | Br3P
reactant | water | O | H2O
solvent | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
product | 5-bromomethyl-2,3-dihydrobenzofuran | yield 27.6 g, 91% | BrCC=1C=CC2=C(CCO2)C1 | C9H9BrO
